US08110585B2
To a suspension of lithium aluminum hydride (141 mg, 3.70 mmol) in tetrahydrofuran (10 mL) was added 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-5-yl)cyclopropanecarbaldehyde oxime (200 mg, 0.925 mmol) obtained in Reference Example 112 at room temperature, and the mixture was stirred at room temperature for 2 hr, and at 60° C. for 2 hr. Sodium sulfate decahydrate was added under ice-cooling, and the mixture was filtered through celite. The filtrate was concentrated under reduced pressure to give 1-[2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-5-yl)cyclopropyl]methanamine as a crudely purified product.

reactant | lithium aluminum hydride | 3.70 mmol, 141 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-5-yl)cyclopropanecarbaldehyde oxime | 0.925 mmol, 200 mg | CC1=NN2C(C=CC=C2C2C(C2)C=NO)=N1 | C11H12N4O
reactant | Sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[2-(2-methyl[1,2,4]triazolo[1,5-a]pyridin-5-yl)cyclopropyl]methanamine | CC1=NN2C(C=CC=C2C2C(C2)CN)=N1 | C11H14N4
